*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/4.70e-04[uF]/100[V]
* Murata P/N :GCM155R72A471KA37
* Property : C = 4.70e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155R72A471KA37 Port1 Port2
C01 Port1 N01 4.74e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 1.72e-10
R03 N02 N03 4.03e-01
C04 N03 N04 4.49e-08
R04 N03 N04 4.89e+04
C05 N04 N05 9.17e-08
R05 N04 N05 2.75e+03
C06 N05 N06 7.74e-08
R06 N05 N06 3.09e+02
C07 N06 N07 7.25e-08
R07 N06 N07 4.39e+01
C08 N07 N08 4.63e-08
R08 N07 N08 9.53e+00
C09 N08 N09 3.14e-08
R09 N08 N09 1.63e+00
C10 N09 N10 1.06e-08
R10 N09 N10 6.03e-01
C11 N10 N11 3.75e-09
R11 N10 N11 3.53e-01
C12 N11 N12 6.27e-11
L12 N11 N12 4.75e-11
R12 N11 N12 8.98e-01
C13 N12 Port2 1.92e-12
L13 N12 Port2 1.70e-10
R13 N12 Port2 1.61e+01
.ENDS GCM155R72A471KA37
